US05580870
Using an analogous procedure to that described in Example 5, 4-chloro-6-dimethylaminoquinazoline was reacted with 5-aminoindole to give 6-dimethylamino-4-(5-indolylamino)quinazoline hydrochloride in 96% yield, m.p. 221°-226° C.;

reactant | 4-chloro-6-dimethylaminoquinazoline | ClC1=NC=NC2=CC=C(C=C12)N(C)C | C10H10ClN3
reactant | 5-aminoindole | NC=1C=C2C=CNC2=CC1 | C8H8N2
product | 6-dimethylamino-4-(5-indolylamino)quinazoline hydrochloride | 96% yield | Cl.CN(C=1C=C2C(=NC=NC2=CC1)NC=1C=C2C=CNC2=CC1)C | InChI=1S/C18H17N5.ClH/c1-23(2)14-4-6-17-15(10-14)18(21-11-20-17)22-13-3-5-16-12(9-13)7-8-19-16;/h3-11,19H,1-2H3,(H,20,21,22);1H
